US08258144B2
5-chloro-N4-cyclobutyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of 2,5-dichloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (23 mg, 0.089 mmol), 6-aminoindazole (40 mg, 0.30 mmol) and TMSCl (0.040 mL, 0.32 mmol) in nBuOH (2 mL) was stirred at 116° C. for 18 h. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (8 mg). MS 354.0, 356.0 (M+H, Cl pattern); UV 201.4, 246.2, 307.9 nm.

reactant | 2,5-dichloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.089 mmol, 23 mg | ClC=1N=C(C2=C(N1)NC=C2Cl)NC2CCC2 | C10H10Cl2N4
reactant | 6-aminoindazole | 0.30 mmol, 40 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.32 mmol, 0.040 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 5-chloro-N4-cyclobutyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 8 mg | ClC1=CNC=2N=C(N=C(C21)NC2CCC2)NC2=CC=C1C=NNC1=C2 | C17H16ClN7
